US07307165B2
Synthesis of N,N-dimethyl-N′-(6-n-propyl-2-trifluoromethylimidazo[1,2-b]pyridazin-3-ylsulfonyl)formamidine
To a suspension of N′-(6-chloro-2-trifluoromethylimidazo[1,2-b]pyridazin-3-ylsulfonyl)-N,N-dimethylformamidine (1.00 g, 2.81 mmol) and [1,3-bis(diphenylphosphino)propane]nickel(II) dichloride (0.076 g, 0.14 mmol) in tetrahydrofuran (8.0 ml) was added dropwise a solution of n-propylzinc bromide in tetrahydrofuran (0.5 M, 8.43 ml, 4.22 mmol) with stirring under ice-cooling and nitrogen stream. The reaction mixture was stirred for 30 minutes under ice-cooling and 4.5 hours at room temperature, then poured into cold water and made acid with dilute hydrochloric acid. The precipitated solid was collected by filtration, washed with dilute hydrochloric acid, then water, and purified by silica gel column chromatography (ethyl acetate:chloroform=2:5) to give the title compound as white crystals. The yield was 0.62 g (60.7%).

reactant | N′-(6-chloro-2-trifluoromethylimidazo[1,2-b]pyridazin-3-ylsulfonyl)-N,N-dimethylformamidine | 2.81 mmol, 1.00 g | ClC=1C=CC=2N(N1)C(=C(N2)C(F)(F)F)S(=O)(=O)N=CN(C)C | C10H9ClF3N5O2S
reactant | n-propylzinc bromide | [Br-].C(CC)[Zn+]
reactant | water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 8.0 ml | O1CCCC1 | C4H8O
catalyst | [1,3-bis(diphenylphosphino)propane]nickel(II) dichloride | 0.14 mmol, 0.076 g | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
solvent | tetrahydrofuran | 4.22 mmol, 0.5 M, 8.43 ml | O1CCCC1 | C4H8O
product | N,N-dimethyl-N′-(6-n-propyl-2-trifluoromethylimidazo[1,2-b]pyridazin-3-ylsulfonyl)formamidine | CN(C=NS(=O)(=O)C1=C(N=C2N1N=C(C=C2)CCC)C(F)(F)F)C | C13H16F3N5O2S
